US08466296B2
Step 2. Preparation of (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane
A 30 L jacketed reactor is charged with potassium 2-(benzyloxy)-4-nitrophenolate (1.31 kg, 4.62 mol), (R)-glycidyl tosylate (1.13 kg, 4.96 mol) and DMF (6.5 L). The resulting suspension is heated until an internal temperature of 65° C. is obtained, and is then stirred for 18 h. The solution is cooled to 20° C., and then water (2 L) is added over 30 min. The solution is seeded with 2 g of the desired product, and the addition of water is resumed (9 L over 1.25 h). The slurry is stirred for 2.5 h, and then collected by vacuum filtration. The reactor and filter cake are washed with water (5 L total) and suction dried to give the title compound (1370 g, 98%) as an off-white powder. LCMS (Standard Method): 2.74 min, 302 (M+H)−. 1H NMR (300 MHz, CDCl3) δ 7.89 (dd, J=2.6, 9.0 Hz, 1H), 7.81 (d, J=2.6 Hz, 1H), 7.48-7.34 (m, 5H), 6.98 (d, J=8.8 Hz, 1H), 5.19 (s, 2H), 4.43 (dd, J=2.7, 11.5 Hz, 1H), 4.08 (dd, J=5.8, 11.5 Hz, 1H), 3.43-3.39 (m, 1H), 2.95-2.91 (m, 1H), 2.81-2.78 (m, 1H).

reactant | potassium 2-(benzyloxy)-4-nitrophenolate | 4.62 mol, 1.31 kg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)[N+](=O)[O-])[O-].[K+]
reactant | (R)-glycidyl tosylate | 4.96 mol, 1.13 kg | S(=O)(=O)(OC[C@H]1CO1)C1=CC=C(C)C=C1 | C10H12O4S
reactant | DMF | 6.5 L | CN(C)C=O | C3H7NO
solvent | water | 2 L | O | H2O
product | (2R)-2-{[2-(benzyloxy)-4-nitrophenoxy]methyl}oxirane | 2 g | C(C1=CC=CC=C1)OC1=C(OC[C@@H]2OC2)C=CC(=C1)[N+](=O)[O-] | C16H15NO5
